US06720324B2
N1-{3-[1-(3-AMINOPROPYL)-4-PIPERIDYL]PHENYL}ACETAMIDE:
TFA (1.0 mL) was added to a solution of tert-butyl N-(3-{4-[3-(acetyl-amino)phenyl]piperidino}propyl)carbamate (340 mg) in dry dichloromethane (10 mL) and stirred at room temperature for 5 h. A 10% aqueous solution of KOH was added to the reaction mixture until pH >6 and then the dichloromethane was removed in vacuo. The aqueous layer was frozen and lyophilized, giving a solid which was then extracted with methanol. Removal of methanol gave the desired product (120 mg) as an oil. 1H NMR δ 8.56-8.46 (s, 1H), 7.43-7.30 (m, 2H), 7.23-7.16 (apparent t, 1H, J=7.5 Hz), 6.95-6.92 (m, 1H), 3.03-2.99 (m, 2H), 2.77-2.73 (t, 2H, J=6.6 Hz), 2.50-1.60 (m, 10 H), 2.13 (s, 3 H).

reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl N-(3-{4-[3-(acetyl-amino)phenyl]piperidino}propyl)carbamate | 340 mg | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(OC(C)(C)C)=O | C21H33N3O3
reactant | KOH | [OH-].[K+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N1-{3-[1-(3-AMINOPROPYL)-4-PIPERIDYL]PHENYL}ACETAMIDE | 120 mg | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
